US07417169B2
Benzyl bromide (0.80 mL) was added to a mixture of benzyl 4-benzoyloxy-2-hydroxybenzoate (2.23 g) and cesium carbonate (2.29 g) in N,N-dimethylformamide (10 mL) at room temperature with stirring, and the mixture was stirred at 50° C. for 3 hrs. Water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium-pressure silica gel column chromatography (eluent: n-hexane/ethyl acetate=6/1) to afford benzyl 4-benzoyloxy-2-benzyloxybenzoate (2.87 g).

reactant | Benzyl bromide | 0.80 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl 4-benzoyloxy-2-hydroxybenzoate | 2.23 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)O | C21H16O5
reactant | cesium carbonate | 2.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | benzyl 4-benzoyloxy-2-benzyloxybenzoate | 2.87 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)OCC1=CC=CC=C1 | C28H22O5
